simulator lang=spectre
global 0

ahdl_include "./dut/slew_rate_limiter.va"

Vin (vin 0) vsource type=pwl wave=[ \
0 0 \
24.8n 0 25.2n 0.8 \
92.8n 0.8 93.2n 0.1 \
160n 0.1 \
]
XDUT (vin vout) slew_rate_limiter

simulatorOptions options evas_profile=balanced

tran tran stop=160n maxstep=500p
save vin vout
